US04241056
5-Amino-4-hydroxy-2-propionylamino-pyrimidine
7.8 gm (0.055 mol) of 2-amino-4-hydroxy-5-nitropyrimidine are heated for 4 hours to 140° C. in 50 ml of propionic acid anhydride. The mixture is cooled and the precipitated product is extracted and washed with ether. The compound is suspended in 200 ml of dimethyl formamide and hydrogenated at room temperature and normal pressure with 1 gm of Pd/C as catalyst.

reactant | 2-amino-4-hydroxy-5-nitropyrimidine | 0.055 mol, 7.8 gm | NC1=NC=C(C(=N1)O)[N+](=O)[O-] | C4H4N4O3
solvent | propionic acid anhydride | 50 ml | C(CC)(=O)OC(CC)=O | C6H10O3
product | 5-Amino-4-hydroxy-2-propionylamino-pyrimidine | NC=1C(=NC(=NC1)NC(CC)=O)O | C7H10N4O2
